US05489717
Preparation of 1-(3,5-Dimethylphenyl)naphthalene
A mixture of dimethyl-5-bromobenzene (1.85 g, 10 mmol), 1-naphthalene boronic acid (1.89 g, 11 mmol), triethylamine (2.8 mL, 20 mmol), tris-(2-tolyl)phosphine (0.125 g, 0.4 mmol), palladium (II) diacetate (0.045 g, 0.4 mmol) and anhydrous dimethylformamide (25 mL) with 5 Å molecular sieves (0.5g) was stirred at 100° C. under a nitrogen atmosphere for about 4 hours. The solvent was evaporated in vacuo and the residue was treated with 5% aqueous ammonia solution, extracted with ethyl acetate, and washed with saturated aqueous sodium chloride. After filtration to remove a black precipitate, the organic layer was dried over magnesium sulfate, filtered and evaporated. The yellowish oil residue was chromatographed on silica gel (methylene chloride;petroleum ether 1:2 as eluant) to give a colorless oil (1.7 g, 7.3 mmol) in 73% yield. This crystallized upon standing (mp 68-70° C.).

reactant | dimethyl-5-bromobenzene | 10 mmol, 1.85 g | CC1=C(C=C(C=C1)Br)C | C8H9Br
reactant | 1-naphthalene boronic acid | 11 mmol, 1.89 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) diacetate | 0.4 mmol, 0.045 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | tris-(2-tolyl)phosphine | 0.4 mmol, 0.125 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-(3,5-Dimethylphenyl)naphthalene | 7.3 mmol, 1.7 g, 73% yield | CC=1C=C(C=C(C1)C)C1=CC=CC2=CC=CC=C12 | C18H16
